US04912231
C. (trans)-1-Benzoyl-4-phenyl-L-proline
A suspension of aluminum trichloride (191 mg, 1.43 mmole) in benzene (5 ml) was stirred under argon and treated with Part B (cis)-N-benzoyl-4-fluoro-L-proline (100 mg, 0.42 mmole). The reaction was stirred at room temperature for 20 hours, cooled to 0° C. and hydrolyzed with 1N HCl. The layers were separated and the aqueous layer was extracted with ethyl acetate. The organic extracts were combined, washed with brine, dried and concentrated. The residue consisted of

reactant | aluminum trichloride | 1.43 mmole, 191 mg | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | (cis)-N-benzoyl-4-fluoro-L-proline | 0.42 mmole, 100 mg | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)O)C[C@@H](C1)F | C12H12FNO3
reactant | HCl | 1N | Cl | ClH
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | (trans)-1-Benzoyl-4-phenyl-L-proline | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)O)C[C@H](C1)C1=CC=CC=C1 | C18H17NO3
